data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC1OC2(Cl)OC1C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC1OC2(Cl)C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2(Cl)C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2.[O-]C", "products": "COC1OC2(Cl)C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "COC1OC2(Cl)C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2", "products": "COC1OC2(Cl)OC1C1C(=O)C12"}, {"reactants": "COC1OC2(Cl)OC1C1C(=O)C12.[O-]C", "products": "COC1OC2(Cl)OC1C1C2C1([O-])OC"}, {"reactants": "COC1OC2(Cl)OC1C1C2C1([O-])OC.CO", "products": "COC(=O)C1CC2OC1(Cl)OC2OC"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1c(F)cccc1C(=O)C1C2CCC1C2", "products": "COc1c(F)cccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1c(F)cccc1[C]([O])C1C2CCC1C2", "products": "COc1c(F)cccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1c(F)cccc1C([O])=CC1C[CH]CC1", "products": "COc1c(F)cccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1c(F)cccc1C(O)=CC1C=CCC1", "products": "COc1c(F)cccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(C(=O)C2C3CCC2C3)ccc1F", "products": "Cc1cc([C]([O])C2C3CCC2C3)ccc1F"}, {"reactants": "Cc1cc([C]([O])C2C3CCC2C3)ccc1F", "products": "Cc1cc(C([O])=CC2C[CH]CC2)ccc1F"}, {"reactants": "Cc1cc(C([O])=CC2C[CH]CC2)ccc1F", "products": "Cc1cc(C(O)=CC2C=CCC2)ccc1F"}, {"reactants": "Cc1cc(C(O)=CC2C=CCC2)ccc1F", "products": "Cc1cc(C(=O)CC2C=CCC2)ccc1F"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C(C)C)cc1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C(C)C)cc1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C(C)C)cc1)C(C)C", "products": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1"}, {"reactants": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1", "products": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1"}, {"reactants": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1"}, {"reactants": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1", "products": "CC(C)c1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(F)c1Cl)C1C2CCC1C2", "products": "[O][C](c1cccc(F)c1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(F)c1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(F)c1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(F)c1Cl", "products": "OC(=CC1C=CCC1)c1cccc(F)c1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(F)c1Cl", "products": "O=C(CC1C=CCC1)c1cccc(F)c1Cl"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3COC(F)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2O3)cc1", "products": "O=C1C2C3COC(F)(O3)C12"}, {"reactants": "O=C1C2C3COC(F)(O3)C12.[O-]C", "products": "COC1([O-])C2C3COC(F)(O3)C21"}, {"reactants": "COC1([O-])C2C3COC(F)(O3)C21.CO", "products": "COC(=O)C1CC2COC1(F)O2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C", "products": "C[C@]12CC[C@@H]3c4c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1Cl", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)c(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)c(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)c(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)c(Cl)c1", "products": "O=C1CCN2C[C@H](OCc3ccc(F)c(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CCOc1cccc(C(=O)C2C3CCC2C3)c1", "products": "CCOc1cccc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "CCOc1cccc([C]([O])C2C3CCC2C3)c1", "products": "CCOc1cccc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "CCOc1cccc(C([O])=CC2C[CH]CC2)c1", "products": "CCOc1cccc(C(O)=CC2C=CCC2)c1"}, {"reactants": "CCOc1cccc(C(O)=CC2C=CCC2)c1", "products": "CCOc1cccc(C(=O)CC2C=CCC2)c1"}]}
